US04198420
36.1 ml of 70% sodium-bis-(2-methoxyethoxy)aluminum hydride in benzene are added dropwise over a one hour span to a stirring mixture of 15 g of 2-(4-fluorophenylthio)benzoic acid in 150 ml of benzene under nitrogen at ambient temperature. After total addition, the reaction mixture is stirred for an additional 30 minutes and then permitted to stand for 4 days. Thereafter, the reaction mixture is cooled to 0° C. before 100 mls of 10% sodium hydroxide are added with stirring. Following this addition, the layers separate and the aqueous layer is extracted twice with 100 ml portions of benzene. The combined benzene solutions are successively washed twice with 100 ml portions of water, washed once with a 60 ml portion of a saturated sodium chloride solution and dried, providing 2-(4-fluorophenylthio)benzyl alcohol.

reactant | sodium bis-(2-methoxyethoxy)aluminum hydride | 36.1 ml | [Na].[H-].COCCO[Al+]OCCOC
reactant | 2-(4-fluorophenylthio)benzoic acid | 15 g | FC1=CC=C(C=C1)SC1=C(C(=O)O)C=CC=C1 | C13H9FO2S
reactant | sodium hydroxide | 100 mls | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-fluorophenylthio)benzyl alcohol | FC1=CC=C(C=C1)SC1=C(CO)C=CC=C1 | C13H11FOS
